US07662830B2
3. 6′-Bromo-3′-chloro-4-[6-(4-fluoro-phenyl)-2-(3-(R)-methyl-morpholin-4-yl)-pyrimidin-4-yl]-3-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-carboxylic acid methyl ester
To a cooled (5° C.) and well stirred mixture of 6′-amino-3′-chloro-4-[6-(4-fluoro-phenyl)-2-(3-(R)-methyl-morpholin-4-yl)-pyrimidin-4-yl]-3-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-carboxylic acid methyl ester (10 g) in 48% HBr (75 mL) and glacial acetic acid (120 mL), add a solution (16 mL) of bromine in acetic acid (6:1) over a period of 45 min. To this mixture add a solution of NaNO2 (8.3 g) in water (18 mL) while maintaining the temperature below 8° C. After the addition is complete, stir the mixture for 30 min and then destroy the excess bromine by adding 100 mL of 30% NaHSO3. Neutralize the solution to pH 8 by the dropwise addition of 20% NaOH and then extract with EtOAc. Wash the organic extracts with dilute NH4OH, dry (Na2SO4) and concentrate under reduced pressure to give the title compound.

reactant | 6′-amino-3′-chloro-4-[6-(4-fluoro-phenyl)-2-(3-(R)-methyl-morpholin-4-yl)-pyrimidin-4-yl]-3-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-carboxylic acid methyl ester | 10 g | COC(=O)C=1N=C(C(=NC1N)N1CC(N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1[C@@H](COCC1)C)C)Cl | C26H30ClFN8O3
reactant | bromine | 16 mL | BrBr | Br2
reactant | NaNO2 | 8.3 g | N(=O)[O-].[Na+]
solvent | HBr | 75 mL | Br | BrH
solvent | acetic acid | 120 mL | C(C)(=O)O | C2H4O2
solvent | water | 18 mL | O | H2O
product | 6′-Bromo-3′-chloro-4-[6-(4-fluoro-phenyl)-2-(3-(R)-methyl-morpholin-4-yl)-pyrimidin-4-yl]-3-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-carboxylic acid methyl ester | COC(=O)C=1N=C(C(=NC1Br)N1CC(N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1[C@@H](COCC1)C)C)Cl | C26H28BrClFN7O3
